US08207202B2
tert-Butyl {2-[(4-{1-[(1,5-dimethyl-1H-pyrazol-4-yl)methyl]piperidin-4-yl}benzoyl)amino]phenyl}carbamate
1,5-Dimethyl-1H-pyrazole-4-carbaldehyde (114 mg, 0.92 mmol) was added to a solution of tert-butyl 2-[(4-piperidin-4-ylbenzoyl)amino]phenylcarbamate (289 mg, 0.73 mmol) in dichloromethane (6 ml) followed by acetic acid (50 μl, 0.87 mmol). The reaction mixture was allowed to stir under nitrogen for 2.5 hours. Sodium triacetoxyborohydride (233 mg, 1.10 mmol) was added and the reaction mixture allowed to stir, at ambient temperature, for 18 hours (overnight). Saturated aqueous sodium bicarbonate solution (10 ml) was then added to the reaction and allowed to stir for 15 minutes. The organic phase was separated and the aqueous phase re-extracted with dichloromethane (10 ml). The combined organics were washed with water, dried over magnesium sulphate and evaporated to dryness to afford the product as a colourless gum (308 mg, 84%), which was used without further purification; Mass Spectrum: M+H+504.

reactant | 1,5-Dimethyl-1H-pyrazole-4-carbaldehyde | 0.92 mmol, 114 mg | CN1N=CC(=C1C)C=O | C6H8N2O
reactant | tert-butyl 2-[(4-piperidin-4-ylbenzoyl)amino]phenylcarbamate | 0.73 mmol, 289 mg | N1CCC(CC1)C1=CC=C(C(=O)NC2=C(C=CC=C2)NC(OC(C)(C)C)=O)C=C1 | C23H29N3O3
reactant | acetic acid | 0.87 mmol, 50 μl | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 1.10 mmol, 233 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | tert-Butyl {2-[(4-{1-[(1,5-dimethyl-1H-pyrazol-4-yl)methyl]piperidin-4-yl}benzoyl)amino]phenyl}carbamate | 308 mg, 84% | CN1N=CC(=C1C)CN1CCC(CC1)C1=CC=C(C(=O)NC2=C(C=CC=C2)NC(OC(C)(C)C)=O)C=C1 | C29H37N5O3
